US06861418B2
To a solution of 4-phenyl-1,3-dihydro-indol-2-one (52.3 mg, 0.25 mmol) and 4-[(cis)3,5-dimethyl-piperazine-carbonyl]-3-methyl-1H-pyrrole-2-carbaldehyde (64.8 mg, 0.26 mmol) in ethanol (2 mL) was added piperidine (3 drops). The reaction mixture was stirred at room temperature for three days. A yellow solid product was precipitated out, filtered, washed by ethanol for three times, and dried under high vacuum to provide pure product 3-[4-((cis)-3,5-dimethyl-piperazine-1-carbonyl]-3-methyl-1H-pyrrol-2-ylmethylene]-phenyl-1,3-dihydro-indol-2-one as a yellow solid (21.5 mg, 20%).

reactant | 4-phenyl-1,3-dihydro-indol-2-one | 0.25 mmol, 52.3 mg | C1(=CC=CC=C1)C1=C2CC(NC2=CC=C1)=O | C14H11NO
reactant | 4-[(cis)3,5-dimethyl-piperazine-carbonyl]-3-methyl-1H-pyrrole-2-carbaldehyde | 0.26 mmol, 64.8 mg | C[C@@H]1CN(C[C@@H](N1)C)C(=O)C=1C(=C(NC1)C=O)C | C13H19N3O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
product | 3-[4-((cis)-3,5-dimethyl-piperazine-1-carbonyl]-3-methyl-1H-pyrrol-2-ylmethylene]-phenyl-1,3-dihydro-indol-2-one | 21.5 mg, 20% | C[C@@H]1CN(C[C@@H](N1)C)C(=O)C=1C(=C(NC1)C=C1CC(=CC=C1)N1C(CC2=CC=CC=C12)=O)C | C27H30N4O2
